Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
Respiratory distress
 
Major Surgical or Invasive Procedure:
Intubation ___
PICC placement ___
Tracheostomy ___
 
History of Present Illness:
Ms. ___ is ___ female with past medical history of
___ disease, advanced dementia, esophageal dysmotility 
w/
chronic aspirations s/p PEG for feeding, reactive airway disease
on chronic glucocorticoids p/w increased work of breathing and
increased cough with sputum/secretions. 

Patient was recently admitted from ___ for pneumonia, and
was treated with IV ceftriaxone and azithro for a 5 day course
from ___. She was felt to have fluctuations in
respiratory function and persistent O2 requirement in the 
setting
of CAP and COPD. She was discharged on home oxygen. 

She re-presented to ED on ___ b/c ___ and son were 
concerned
about worsening respiratory status. Patient has been tachypneic
and shows signs of increased work of breathing. She is also been
producing copious amounts of yellow-green sputum. Has also had a
fever, T-max 100.1. She is currently on 2L of oxygen. Was
discharged on this oxygen level after last hospitalization.
  
In the ED, initially hypercapnic in ED on non-rebreather. 
Thought
not to be an appropriate candidate for positive pressure
ventilation. Noted to have jugular venous distension, concerned
for component of volume overload.  

 Initial Vitals: 100.1F, HR 80, BP 130/80, RR 22, 100% 2L NC  

 Exam in ED significant for: Shallow breathing and kyphotic
posture. 

 Labs:  
 141 | 96 | 39  
 --------------< 120  
 5.0 | 33 | 0.6  

      11.6  
 14.0>----<232  
      37.8  
 
 Lactate: 1.9  
 FluA, FluB PCR: negative  
 ___ VBG: ___  
 2242 VBG: 7.50/34/196  

Imaging:  
CXR: Limited study due to patient rotation. Given this, findings
concerning for multifocal pneumonia with patchy opacities over
the right lung and left base opacity. Underlying pulmonary edema
not excluded.  

Consults: None 
 
 Interventions:  
 Duoneb x1  
 500cc LR  
 CTZ 1g  
 Azithro 500mg  

 VS Prior to Transfer: 98 95 167/101 18 100% RA 

In the ICU, patient lying in bed. Appears uncomfortable at 
times.
Answers yes to back pain. Notes breathing improved from prior.
Denies chest pain. 

 
Past Medical History:
 ___ Disease  
 HTN  
 HLD  
 Esophageal dysmotility  
 Bilateral blindness  
 Reactive airway disease  
 COPD, bronchiectasis  
 Hypothyroidism  
 Recurrent Aspiration s/p PEG placement  
 
Social History:
___
Family History:
Sons with heart disease

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VS: 98.1 140/103 26 93% 4L NC 
GEN: Lying in bed, intermittent tremor. Oriented to self,
difficult to hear. 
HEENT: PERRLA. EOMI. Moist mucous membranes. 
CV: RRR. No murmurs, rubs, or gallops. 
LUNGS: Diffuse rhonchi with decreased breath sounds at bases.
Few crackles at bases. Diffuse wheezing. 
GI: Soft, non-tender, non-distended. 
EXT: WWP. Pulses 2+. No edema. 
NEURO: CNII-XII intact. Cogwheel rigidity bilaterally.  

DISCHARGE PHYSICAL EXAM:
=======================
GEN: Chronically ill appear woman laying in bed, alert, follows
some commands, non-verbal 
HEENT: PERRL. Moist mucous membranes. 
NECK: Kyphosis present, trach C/D/I
CV: RRR. No rubs or gallops. Grade ___ systolic murmur heard
throughout precordium.
LUNGS: CTAB. No w/r/r 
GI: Soft, non-tender, non-distended. normoactive BS. PEG C/D/I. 
EXT: WWP. Pulses 2+. 1+ ___
NEURO: L eyelip drooping. Able to move upper extremities on
command. Unable to assess orientation. 
 
Pertinent Results:
ADMISSION LABS:
================
___ 05:55PM BLOOD WBC-14.0* RBC-3.77* Hgb-11.6 Hct-37.8 
MCV-100* MCH-30.8 MCHC-30.7* RDW-15.7* RDWSD-58.4* Plt ___
___ 04:13AM BLOOD ___ PTT-27.4 ___
___ 05:55PM BLOOD Glucose-120* UreaN-39* Creat-0.6 Na-141 
K-5.0 Cl-96 HCO3-33* AnGap-12
___ 01:34AM BLOOD ALT-<5 AST-21 AlkPhos-106* TotBili-0.4
___ 03:38AM BLOOD Calcium-9.4 Phos-2.6* Mg-2.7*
___ 07:15PM BLOOD ___ pO2-23* pCO2-72* pH-7.30* 
calTCO2-37* Base XS-4

DISCHARGE LABS:
================
___ 04:26AM BLOOD WBC-6.9 RBC-2.38* Hgb-7.5* Hct-25.0* 
MCV-105* MCH-31.5 MCHC-30.0* RDW-17.0* RDWSD-65.1* Plt ___
___ 03:30AM BLOOD ___ PTT-27.3 ___
___ 04:26AM BLOOD Glucose-133* UreaN-13 Creat-0.4 Na-142 
K-4.1 Cl-98 HCO3-27 AnGap-17
___ 04:26AM BLOOD Calcium-8.8 Phos-2.4* Mg-2.0

MICRO:
=======
___ 6:56 pm SPUTUM      Source: Induced. 
RESPIRATORY CULTURE (Final ___: 
STAPH AUREUS COAG +.    SPARSE GROWTH.  
YEAST.    MODERATE GROWTH. 
PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH. 
                              SENSITIVITIES: MIC expressed in 
MCG/ML
________________________________________________________
                             STAPH AUREUS COAG +
                             |          PSEUDOMONAS AERUGINOSA
                             |          |   
CEFEPIME--------------              <=1 S
CEFTAZIDIME-----------                4 S
CIPROFLOXACIN---------           <=0.25 S
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S      <=1 S
LEVOFLOXACIN----------   =>8 R
MEROPENEM-------------           <=0.25 S
OXACILLIN-------------   =>4 R
PIPERACILLIN/TAZO-----              <=4 S
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TOBRAMYCIN------------              <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------ <=0.5 S

___ 3:12 pm SPUTUM      Source: Endotracheal. 
RESPIRATORY CULTURE (Final ___: 
      PSEUDOMONAS AERUGINOSA.    RARE GROWTH. 
      SENSITIVITIES: MIC expressed in MCG/ML
________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------  =>64 R
CEFTAZIDIME-----------  =>64 R
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----       R
TOBRAMYCIN------------   <=1 S

C. difficile PCR (Final ___: NEGATIVE. 

___ 5:55 pm BLOOD CULTURE: STAPHYLOCOCCUS, COAGULASE 
NEGATIVE. 
Isolated from only one set in the previous five days. 

MRSA SCREEN (Final ___: 
      POSITIVE FOR METHICILLIN RESISTANT STAPH AUREUS. 

STUDIES:
=========
CXR ___: IMPRESSION:  Tip right PICC line overlying the mid 
SVC. 

KUB ___: Non-obstructive bowel gas pattern with no 
significant stool burden.

CXR ___: IMPRESSION: Limited study due to patient rotation.  
Given this, findings concerning for multifocal pneumonia with 
patchy opacities over the right lung and left base opacity.  
Underlying pulmonary edema not excluded. 
 
Brief Hospital Course:
SUMMARY:
========
Ms. ___ is ___ female with past medical history of 
___ disease, advanced dementia, esophageal dysmotility 
w/ chronic aspirations s/p PEG for feeding, reactive airway 
disease on chronic glucocorticoids who presented with increased 
work of breathing and increased cough with sputum/secretions, 
found to have acute hypoxic/hypercarbic respiratory failure, 
MRSA and pseudomonas pneumonia, frequent bradycardia, and 
hypotension. 

ACUTE ISSUES 
=============== 
# Acute hypoxemic hypercarbic respiratory failure 
Initially presenting with hypoxia. Her respiratory failure 
worsened and was started on HFNC and eventually was intubated on 
___ after goals of care discussions with the family. She was 
given aggressive pulmonary toilet. Attempts to wean the 
ventilator were not successful, so she ultimately underwent 
tracheostomy placement and bronchoscopy on ___. Patient 
continued to have intermittent low minute ventilation so 
required switching from pressure support to volume control. She 
will need ongoing ventilator weaning after discharge. 

# Sepsis secondary to HAP
# MRSA pneumonia
# Pseudomonas PNA
CXR demonstrated findings concerning for multifocal pneumonia. 
Her sputum grew MRSA and Pseudomonas. For her MRSA pneumonia, 
she was given 10 days of vancomycin. For her Pseudomonas 
infection, she was initially treated with cefepime, but 
ultimately transitioned to IV ciprofloxacin for an additional 7 
days after her Pseudomonas developed intermediate sensitivities 
to cefepime. Last day of ciprofloxacin is ___. 

# Hypotension
Requiring pressors after being intubated. Likely ___ sedatives 
and sepsis. Given norepi for goal MAP >65. She did 
intermittently have brief hypotensive episodes throughout 
hospitalization that were fluid responsive. There may have been 
a component of difficulty measuring BPs given frequent 
movements. 

# Reactive airway disease/COPD
# Chronic aspiration
Patient has been on long-standing prednisone. Concern for 
chronic aspiration in the setting of esophageal dysmotility with 
kyphosis and dyskinesias from ___. Given high dose 
prednisone (50 mg) for 5 days followed by taper in addition to 
aggressive nebulizer regimen. She will be maintained on her home 
prednisone dose of 10 mg PO daily afterwards. 

# Recurrent episodes of bradycardia 
Before intubation, patient would intermittently have bradycardic 
episodes including a 10-second pause on telemetry in the setting 
of hypoxia and discomfort. Electrophysiology was consulted who 
did not feel that this regard prior to pacemaker placement. 
These episodes did not recur after intubation. Likely related to 
vagal episodes. 

# Coag negative staph in blood cultures 
Grown in one set of cultures, thought to be ___ contamination. 

# Diarrhea
C. diff negative. Likely ___ tube feeds. 

# Skin excoriations in groin
Foley placed for skin breakdown on external genitalia ___ 
urinary incontinence. 

# Hypernatremia
Likely ___ poor PO intake. Resolved with increased free water 
flushes. 

# Anemia
# Thrombocytopenia
Likely secondary to sepsis and antibiotics. Improved with 
treatment of infections. 

CHRONIC PROBLEMS:
=================
# Subacute and chronic rib fractures
Found on prior admission and thought to be due to chronic cough 
and osteoporosis. Continued Tylenol, ibuprofen and lidocaine 
patches. 

# ___ Disease
# Advanced dementia
Continued home carbidopa-levodopa and carbidopa. 

# Esophageal dysmotility
Continued tube feeds through PEG

# HLD
Continued home atorvastatin daily 

# GERD
Continued home lansoprazole 30 mg PO BID 

# Hypothyroidism
Continued home levothyroxine 25 mcg daily 

TRANSITIONAL ISSUES:
====================
[] Continue IV ciprofloxacin to end on ___
[] Please attempt to wean ventilator support 
[] Continue goals of care discussions if unable to be weaned 
from ventilator 
[] Please remove foley and attempt voiding trial
[] Pseudomonas developed resistance to cefepime, ceftazadime, 
and piperacillin-tazobactam. Please avoid use of these 
antibiotics in the future if concern for pneumonia
[] Prednisone taper
___: 20 mg x2 days
___: 10 mg PO daily indefinitely

ADVANCED CARE PLANNING:
=======================
#CODE: Full, confirmed 
#CONTACT: 
- Name of health care proxy: ___
- Relationship: Son
- Phone number: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H 
2. Atorvastatin 20 mg PO QPM 
3. carbidopa 25 mg oral BID 
4. Carbidopa-Levodopa (___) 2 TAB PO Q0700 
5. Carbidopa-Levodopa (___) 1.5 TAB PO Q 1000 
6. Carbidopa-Levodopa (___) 1.5 TAB PO Q1300 
7. Carbidopa-Levodopa (___) 2 TAB PO Q1600 
8. Carbidopa-Levodopa (___) 1 TAB PO Q1900 
9. Carbidopa-Levodopa (___) 1 TAB PO AT MIDNIGHT 
10. Fluticasone Propionate 110mcg 2 PUFF IH BID 
11. Hyoscyamine 0.125 mg SL TID:PRN oral secretions 
12. Ipratropium Bromide Neb 1 NEB IH Q6H 
13. Lansoprazole Oral Disintegrating Tab 30 mg PO BID 
14. Levalbuterol Neb 0.63 mg NEB Q6H:PRN dyspnea 
15. Levothyroxine Sodium 25 mcg PO DAILY 
16. Lidocaine 5% Patch 1 PTCH TD QPM 
17. Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line 
18. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
19. PredniSONE 10 mg PO DAILY 
20. formoterol fumarate 20 mcg/2 mL inhalation BID 
21. Multivitamins W/minerals 1 TAB PO DAILY 
22. Ibuprofen 200 mg PO QID:PRN Pain - Moderate 
23. melatonin 3 mg oral QHS:PRN 
24. formoterol fumarate 20 mcg/2 mL inhalation BID 

 
Discharge Medications:
1.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
2.  Ciprofloxacin 400 mg IV Q12H Duration: 5 Doses 
First dose ___ of ___  
3.  PredniSONE 20 mg PO DAILY Duration: 1 Dose 
Start on ___ 
This is dose # 1 of 1 tapered doses 
4.  PredniSONE 10 mg PO DAILY 
Start: After last tapered dose completes 
This is the maintenance dose to follow the last tapered dose 
5.  Acetaminophen 1000 mg PO Q8H  
6.  Atorvastatin 20 mg PO QPM  
7.  Carbidopa-Levodopa (___) 2 TAB PO Q0700  
8.  Carbidopa-Levodopa (___) 1.5 TAB PO Q 1000  
9.  Carbidopa-Levodopa (___) 1.5 TAB PO Q1300  
10.  Carbidopa-Levodopa (___) 2 TAB PO Q1600  
11.  Carbidopa-Levodopa (___) 1 TAB PO Q1900  
12.  Carbidopa-Levodopa (___) 1 TAB PO AT MIDNIGHT  
13.  carbidopa 25 mg oral BID  
14.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
15.  formoterol fumarate 20 mcg/2 mL inhalation BID  
16.  formoterol fumarate 20 mcg/2 mL inhalation BID  
17.  Ibuprofen 200 mg PO QID:PRN Pain - Moderate  
18.  Ipratropium Bromide Neb 1 NEB IH Q6H  
19.  Lansoprazole Oral Disintegrating Tab 30 mg PO BID  
20.  Levalbuterol Neb 0.63 mg NEB Q6H:PRN dyspnea  
21.  Levothyroxine Sodium 25 mcg PO DAILY  
22.  Lidocaine 5% Patch 1 PTCH TD QPM  
23.  melatonin 3 mg oral QHS:PRN  
24.  Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line  
25.  Multivitamins W/minerals 1 TAB PO DAILY  
26.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Acute hypoxemic hypercarbic respiratory failure 
Sepsis secondary to HAP
MRSA pneumonia
Pseudomonas pneumonia

SECONDARY DIAGNOSES
Hypotension
Reactive airway disease
Chronic aspiration
Bradycardic episodes
Diarrhea
Skin excoriations
Hypernatremia
Anemia
Thrombocytopenia 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
=================================
- You were admitted because you were having difficulty breathing 
and were found to have a pneumonia.

What happened while I was in the hospital?  
====================================
- You had testing done to figure out what kind of pneumonia you 
had.  This showed you had 2 infections call MRSA and 
Pseudomonas.
– You were given IV antibiotics to treat these infections.
– You were given higher dose prednisone to help with 
inflammation in your lungs. 
– We placed you on a breathing machine called a ventilator to 
help you breath. Because you could not breathe without this 
machine, a tracheostomy (breathing tube in the neck) was placed, 
which will help you to breathe with the support of the 
ventilator, but be more comfortable. 

What should I do after leaving the hospital?  
============================================
- Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team  
 
Followup Instructions:
___